US07696223B2
c) [(3-Chloro-7-cyano-4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carbonyl)-amino]-acetic acid
Prepared in analogy to that of Example 1(e) from 3-chloro-7-cyano-4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester, glycine and NaOMe/HOMe. The title compound, ESI MS (m/z): 369 (M−1)−.

reactant | 3-chloro-7-cyano-4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)C#N)N(C=C2Cl)C2=CC=CC=C2)O | C17H12ClN3O3
reactant | glycine | NCC(=O)O | C2H5NO2
reactant | NaOMe HOMe | C[O-].[Na+].CO
product | [(3-Chloro-7-cyano-4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carbonyl)-amino]-acetic acid | ClC1=CN(C2=C(N=C(C(=C21)O)C(=O)NCC(=O)O)C#N)C2=CC=CC=C2 | C17H11ClN4O4
